US06350907B1
A suspension of 4-amino-1-(4-cyanophenyl)-2-methylbenzene (250 mg 1.2 mmol) in conc. hydrochloric acid (1.3 mL) and water (1.6 mL) at 0° C., was treated with a solution of sodium nitrite (183 mg, 2.65 mmol) in water (1 mL) over 10 mins. The mixture was stirred for 20 mins and then a solution of potassium iodide (840 mg, 5.06 mmol) in water (2 mL) was added, over 10 mins. The resultant mixture was heated at 90° C. for 2 h, then cooled. The residue was extracted with dichloromethane (3×30 mL) and the combined organic extracts were washed with 5% aqueous sodium metabisulphite (4×30 mL), to remove iodine. The organic solution was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane:ethyl acetate 20:1 to 10:1) to give 1-(4-cyanophenyl)-4-iodo-2-methylbenzene as a white solid (263 mg, 69%).

reactant | 4-amino-1-(4-cyanophenyl)-2-methylbenzene | 1.2 mmol, 250 mg | NC1=CC(=C(C=C1)C1=CC=C(C=C1)C#N)C | C14H12N2
reactant | sodium nitrite | 2.65 mmol, 183 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 5.06 mmol, 840 mg | [I-].[K+]
solvent | hydrochloric acid | 1.3 mL | Cl | ClH
solvent | water | 1.6 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 1-(4-cyanophenyl)-4-iodo-2-methylbenzene | 263 mg, 69% | C(#N)C1=CC=C(C=C1)C1=C(C=C(C=C1)I)C | C14H10IN
